US09340555B2
A mixture of methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate (500 mg, 2.20 mmol), 3-aminophenol (330 mg, 3.0 mmol), ethyl 2-cyclohexanonecarboxylate (73 mg, 0.43 mmol), copper(I) chloride (22 mg, 0.22 mmol) and cesium carbonate (1.48 g, 4.55 mmol) in 20 ml of anhydrous DMSO was placed in a 50 ml pressure tube, flushed with nitrogen, sealed and heated at 70° C. for 3 hours. The mixture was cooled to room temperature and poured into 100 ml of water. The precipitates were filtered, washed with water and dried to give crude methyl 7-(3-aminophenoxy)thieno[3,2-b]pyridine-2-carboxylate as brown solid. Yield: 330 mg.

reactant | methyl 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 2.20 mmol, 500 mg | ClC1=C2C(=NC=C1)C=C(S2)C(=O)OC | C9H6ClNO2S
reactant | 3-aminophenol | 3.0 mmol, 330 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | ethyl 2-cyclohexanonecarboxylate | 0.43 mmol, 73 mg | CCOC(=O)C1CCCCC1=O | C9H14O3
reactant | cesium carbonate | 4.55 mmol, 1.48 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
catalyst | copper(I) chloride | 0.22 mmol, 22 mg | [Cu]Cl
product | methyl 7-(3-aminophenoxy)thieno[3,2-b]pyridine-2-carboxylate | NC=1C=C(OC2=C3C(=NC=C2)C=C(S3)C(=O)OC)C=CC1 | C15H12N2O3S
